US08476434B2
Ethyl 3-nitro-4-(trifluoromethyl)benzoate (11.58 g, 44 mmol) was taken up in EtOH (150 ml) and vacuum purged. Then, under a nitrogen atmosphere, Pd/C (1.15 g) was added. The mixture was stirred at RT overnight under a hydrogen atmosphere using a balloon. The reaction was filtered through a pad of celite and the filtrate reduced under reduced pressure to give ethyl 3-amino-4-(trifluoromethyl)benzoate a white solid.

reactant | Ethyl 3-nitro-4-(trifluoromethyl)benzoate | 44 mmol, 11.58 g | [N+](=O)([O-])C=1C=C(C(=O)OCC)C=CC1C(F)(F)F | C10H8F3NO4
solvent | EtOH | 150 ml | CCO | C2H6O
product | ethyl 3-amino-4-(trifluoromethyl)benzoate | NC=1C=C(C(=O)OCC)C=CC1C(F)(F)F | C10H10F3NO2
